US08283354B2
2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol
To a mixture of benzyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate (610 mg, 1.26 mmol) and EtOH (15 mL) in a round bottom flask was added Pd/C (61 mg, 10% wt Pd on carbon) and the flask was sealed with a septum. The atmosphere in the flask was evacuated, purged with N2, and equipped with a balloon charged with H2. The mixture was then stirred under an H2 atmosphere at ambient pressure for 3 h. After filtration through a plug of Celite, using MeOH as the eluting solvent, the reaction mixture was concentrated to a yellow solid 2-(4-((S)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol (441 mg). LC/MS: m/z 349.3 (M+H)+ at 1.52 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.43-8.45 (m, 1H), 7.95 (d, J=8.5 Hz, 1H), 7.64 (s, 1H), 7.35-7.39 (m, 2H), 6.92-6.96 (m, 2H), 4.52 (d, J=12.5 Hz, 1H), 4.41 (d, J=13.2 Hz, 1H), 3.26-3.29 (m, 2H), 3.02-3.08 (m, 1H), 2.55-2.61 (m, 1H), 2.45-2.48 (m, 1H), 1.84-1.91 (m, 2H), 1.65-1.77 (m, 3H), 1.24-1.36 (m, 1H).

reactant | benzyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | 1.26 mmol, 610 mg | C(C1=CC=CC=C1)OC(NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C29H30N4O3
catalyst | Pd/C | 61 mg | [Pd] | Pd
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-(4-((S)-3-(Aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol | NC[C@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C21H24N4O
